US04556672
5-Chloro-2-oxindole-1-carboxamide
Cyclization of 4.78 g (0.021 mole) of 2-(5-chloro-2-ureidophenyl)acetic acid with 8.0 g (0.063 mole) of trifluoroacetic anhydride in 75 ml of trifluoroacetic acid, according to the method of Example 13, followed by recrystallization of the crude product from acetonitrile, gave 80 mg of the title compound, m.p. 211° C. (dec.).

reactant | 2-(5-chloro-2-ureidophenyl)acetic acid | 0.021 mole, 4.78 g | ClC=1C=CC(=C(C1)CC(=O)O)NC(=O)N | C9H9ClN2O3
reactant | trifluoroacetic anhydride | 0.063 mole, 8.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluoroacetic acid | 75 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Chloro-2-oxindole-1-carboxamide | 80 mg | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
